US05536737
L-Proline (23.3 g), benzyl isocyanate (22.9 g) and triethylamine (20.5 g) were stirred at room temperature for 1 hour in DMF (250 ml) to give a solution of N-(benzylaminocarbonyl)-L-proline. Thereto were added HOBt (29.7 g), water-soluble carbodiimide hydrochloride (42.13 g), L-proline benzyl ester hydrochloride (48.3 g) and triethylamine (27.9 ml) under ice-cooling, and the mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into ice water and extracted with ethyl acetate. The extract was washed with 10% potassium hydrogensulfate, a saturated aqueous solution of sodium bicarbonate and water in order, dried over anhydrous sodium sulfate, and concentrated to give the title compound (73.6 g).

reactant | L-Proline | 23.3 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzyl isocyanate | 22.9 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | triethylamine | 20.5 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | N-(benzylaminocarbonyl)-L-proline | C(C1=CC=CC=C1)NC(=O)N1[C@H](C(=O)O)CCC1 | C13H16N2O3
